US07442819B2
2,6-Di-(para-tert-butylphenyl)aniline
4-tert-Butylphenyl boronic acid (11.7 g), 10.9 g of 2,6-dibromo-phenylamine, 1.36 g of Pd2(dba)3.CHCl3, and 2.75 g of Ph3P were charged into a 0.5 L round bottom flask containing 50 ml of benzene under argon. Then a solution of 27 g of Na2CO3 in 130 ml of water was added to the flask in one portion. The reaction mixture was refluxed for 120 h. The organic phase was separated and purified by chromatography on silica gel with an eluent of petroleum ether/diethyl ether (20:1), collecting the beginning of the eluate (Rf=0.9−1). Yield of 2,6-di-(para-tert-butylphenyl)aniline was 60-70% with mp. 106° C.

reactant | 4-tert-Butylphenyl boronic acid | 11.7 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | 2,6-dibromo-phenylamine | 10.9 g | BrC1=C(C(=CC=C1)Br)N | C6H5Br2N
reactant | Ph3P | 2.75 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Na2CO3 | 27 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 130 ml | O | H2O
catalyst | Pd2(dba)3 | 1.36 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2,6-Di-(para-tert-butylphenyl)aniline | C(C)(C)(C)C1=CC=C(C=C1)C1=C(N)C(=CC=C1)C1=CC=C(C=C1)C(C)(C)C | C26H31N
